US04166115
A mixture of ethyl 2-hydroxyimino-4-bromoacetoacetate (a mixture of syn and anti isomers) (2.4 g) and thiourea (0.76 g) in ethanol (15 ml) was stirred for 1 hour at 60° C. Ethanol was distilled off under reduced pressure and water was added to the residue. The resultant mixture was adjusted to pH 1.0 and washed with ethyl acetate. The aqueous layer was adjusted to pH 4.5 with triethylamine and extracted with ethyl acetate. The extract was washed with water and a saturated sodium chloride aqueous solution and dried over magnesium sulfate. The solvent was distilled off under reduced pressure and the residue was subjected to column chromatography on silica gel using a mixture of ethyl acetate and benzene (1:3) as developing solvent. The eluates containing syn isomer were collected and concentrated to give ethyl 2-hydroxyimino-2-(2-amino-1,3-thiazol-4-yl)acetate (syn isomer) (0.3 g).

reactant | ethyl 2-hydroxyimino-4-bromoacetoacetate | ON=C(C(=O)OCC)C(=O)CBr | C6H8BrNO4
reactant | thiourea | 0.76 g | NC(=S)N | CH4N2S
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | ethyl 2-hydroxyimino-2-(2-amino-1,3-thiazol-4-yl)acetate | 0.3 g | ON=C(C(=O)OCC)C=1N=C(SC1)N | C7H9N3O3S
